US04916129
Part A: Preparation of 5-[4-(3-(N-t-butoxycarbonyl-N-isopropylamino)-2-hydroxypropoxy)indole-2-carboxamidomethyl]-2-n-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole
5-Aminomethyl-2-n-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole (prepared by the procedure of Example 148, Part C, in EP No. 0253310) (0.71 g, 1.7 mmol), 1 eq), 4-[3-(N-t-butoxycarbonyl-N-isopropylamino)-2-hydroxypropoxy]indole-2-carboxylic acid (prepared by the procedure of Example 1, Part g, in EPO No. 174162) (0.84 g, 1.7 mmol, 1 eq), 1-hydroxybenzotriazole (0.24 g, 1.8 mmol, 1.05 eq), dicyclohexylcarbodiimide (0.37 g, 1.8 mmol, 1.05 eg) and DMF (25 mL) were mixed at 0° C. and left in the refrigerator for 4 days at that temperature. The dicyclohexylurea was filtered off and the mixture concentrated and chromatographed in 1:1 hexane/ethyl acetate yielding 970 mg of a white solid; mp 157.5°-160° C.

reactant | 5-Aminomethyl-2-n-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole | NCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC)Cl | C23H26ClN3O2
reactant | 4-[3-(N-t-butoxycarbonyl-N-isopropylamino)-2-hydroxypropoxy]indole-2-carboxylic acid | C(C)(C)(C)OC(=O)N(C(C)C)CC(COC1=C2C=C(NC2=CC=C1)C(=O)O)O | C20H28N2O6
reactant | 1-hydroxybenzotriazole | 1.8 mmol, 0.24 g, 1.05 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.8 mmol, 0.37 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-[4-(3-(N-t-butoxycarbonyl-N-isopropylamino)-2-hydroxypropoxy)indole-2-carboxamidomethyl]-2-n-butyl-1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-4-chloroimidazole | C(C)(C)(C)OC(=O)N(C(C)C)CC(COC1=C2C=C(NC2=CC=C1)C(=O)NCC1=C(N=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC)Cl)O | C43H52ClN5O7
